US07196103B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester
The title compound was prepared analogously to example 5 with the difference that 4-Chloromethyl-5-methyl-[1,3]dioxol-2-one and 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid was used instead of Carbonic acid 1-chloro-ethyl ester 2-methoxy-ethyl ester and 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid. MS (ES+): m/e=639, chloro pattern.

reactant | 4-Chloromethyl-5-methyl-[1,3]dioxol-2-one | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC2=CC(=CC=C12)C(=O)O)C(NC1CCN(CC1)C(C)C)=O | C26H27ClN4O4S
reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-4-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1C(=CC=2C(=CC=CC12)C(=O)O)C(NC1CCN(CC1)C(C)C)=O | C25H28ClN5O4
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester | CC1=C(OC(O1)=O)COC(=O)C=1C=C2C=C(N(C2=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(NC1CCN(CC1)C(C)C)=O | C31H31ClN4O7S
